US05034417
Methyl nitrite [prepared from sodium nitrite (1.4 g), methanol (0.9 ml) and sulfuric acid (0.7 ml) in water (2.3 ml)] was introduced into an ice-cooled mixture of 2'-(2,4-difluorophenylthio)-4'-propionylmethanesulfonanilide (2.54 g) in tetrahydrofuran (10 ml) and 12% hydrogen chloride in ether (10 ml). The mixture was stirred for 5 hours at 3° C. and evaporated. The residual solid was recrystallized from ethanol to give colorless crystals of 2'-(2,4-difluorophenylthio)-4'[2-(hydroxyimino)-1-oxopropyl]methanesulfonanilide (2.5 g).

reactant | Methyl nitrite | 0.9 ml, 1.4 g | N(=O)OC | CH3NO2
reactant | 2'-(2,4-difluorophenylthio)-4'-propionylmethanesulfonanilide | 2.54 g | FC1=C(C=CC(=C1)F)SC1=C(NS(=O)(=O)C)C=CC(=C1)C(CC)=O | C16H15F2NO3S2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hydrogen chloride | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
product | 2'-(2,4-difluorophenylthio)-4'[2-(hydroxyimino)-1-oxopropyl]methanesulfonanilide | 2.5 g | FC1=C(C=CC(=C1)F)SC1=C(NS(=O)(=O)C)C=CC(=C1)C(C(C)=NO)=O | C16H14F2N2O4S2
